US07776875B2
Preparation of Intermediate E/Z-3-[2-(tert-butylsulfamoyl-methoxy)-5-chloro-benzylidene]-6-chloro-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester
To a solution of N-tert-butyl-C-[4-chloro-2-(6-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-phenoxy]-methanesulfonamide (4 g, 8.79 mmol) in dichloromethane (50 mL) at r.t was added di-tert-butyl-dicarbonate (6.54 g, 30 mmol), followed by the addition of 4-dimethylaminopyridine (3.66 g, 30 mmol). After stirred at room temperature overnight, the mixture was concentrated. The residue was purified by column chromatography to give the title compound as a yellow solid (3.8 g).

reactant | N-tert-butyl-C-[4-chloro-2-(6-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-phenoxy]-methanesulfonamide | 8.79 mmol, 4 g | C(C)(C)(C)NS(=O)(=O)COC1=C(C=C(C=C1)Cl)C=C1C(NC2=CC(=CC=C12)Cl)=O | C20H20Cl2N2O4S
reactant | di-tert-butyl-dicarbonate | 30 mmol, 6.54 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 30 mmol, 3.66 g | CN(C1=CC=NC=C1)C | C7H10N2
product | Z-3-[2-(tert-butylsulfamoyl-methoxy)-5-chloro-benzylidene]-6-chloro-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | 3.8 g | C(C)(C)(C)OC(=O)N1C(\C(\C2=CC=C(C=C12)Cl)=C/C1=C(C=CC(=C1)Cl)OCS(NC(C)(C)C)(=O)=O)=O | C25H28Cl2N2O6S
